US07456169B2
methyl 3-amino-4-nitrobenzoate
(Trimethylsilyl)diazomethane (6 mL, 2M solution in hexanes) was added to a solution of 3-amino-4-nitro-benzoic acid in CH2Cl2 (25 mL) and methanol (25 mL). Stirred at room temperature until bubbling ceased. Concentrated under vacuum to provide 1.2 g of desired product. MS (DCI) m/e 197 (M+H)+.

reactant | (Trimethylsilyl)diazomethane | 2M, 6 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 3-amino-4-nitro-benzoic acid | NC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H6N2O4
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 25 mL | CO | CH4O
product | methyl 3-amino-4-nitrobenzoate | 1.2 g | NC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H8N2O4
